US08470786B2
To a solution of 3-(6-hydroxy-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-1H-pyrrole-2,5-dione (293 mg, 0.76 mmol) in anhydrous methanol (15 mL) in a 40 mL reaction vial was added magnesium turnings (300 mg, 15.2 mmol). The mixture was capped and heated at 80° C. in an oil bath. After 4 hr the reaction was cooled to room temperature and the methanol removed under reduced pressure. The mixture was diluted with dichloromethane (20 mL) and washed with 10% HCl (20 mL). The aqueous layer was extracted with dichloromethane (3×20 mL), washed with brine, dried over sodium sulfate, and concentrated to dryness. The residue was purified by silica gel chromatography, eluting with a methanol/dichloromethane (1-5%) to afford (rac)-trans-3-(6-hydroxy-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrolidine-2,5-dione as a off-white solid (42 mg, 14%). Mp: 153-155° C.; 1H NMR (DMSO-d6) 400 MHz δ: 11.54 (bs, 1H), 11.04 (bs, 1H), 7.42-7.35 (m, 4H), 7.26 (d, J=7.8 Hz, 1H), 7.04-7.08 (m, 2H), 6.98-6.93 (m, 2H), 5.34 (brs, 1H), 4.88 (brs, 1H), 4.55 (d, J=6.6 Hz, 1H), 4.49 (d, J=6.6 Hz, 1H), 4.13 (s, 2H), 2.10 (s, 2H); LCMS [M+H]: 386.

reactant | 3-(6-hydroxy-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)-1H-pyrrole-2,5-dione | 0.76 mmol, 293 mg | OC1CCN2C3=C(C=CC=C13)C(=C2)C=2C(NC(C2C2=CNC1=CC=CC=C21)=O)=O | C23H17N3O3
reactant | magnesium | 15.2 mmol, 300 mg | [Mg] | Mg
solvent | methanol | 15 mL | CO | CH4O
product | (rac)-trans-3-(6-hydroxy-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4-(1H-indol-3-yl)pyrrolidine-2,5-dione | 42 mg, 14% | OC1CCN2C3=C(C=CC=C13)C(=C2)[C@@H]2C(NC([C@H]2C2=CNC1=CC=CC=C21)=O)=O | C23H19N3O3
